US04741760
(d) Production of 4-amino-2,6-dimethoxy-5-methylpyrimidine
A mixture of 10.7 g (0.06 mol) of 5-methyl-4-amino-2,6-dichloropyrimidine, 100 ml of methanol and 22 g of 30% sodium methylate (0.122 mol) is allowed to react at 120° C. for 20 hours in an autoclave. After cooling, the grey reaction mixture is concentrated in vacuo; the residue is taken up in 70 ml of water, stirred and then filtered. The residue is washed with water, dried and recrystallised from carbon tetrachloride. There remain after drying 6.1 g of 4-amino-5-methyl-2,6-dimethoxypyrimidine as white crystals, which melt at 60° C. (yield=60% of theory).

reactant | 5-methyl-4-amino-2,6-dichloropyrimidine | 0.06 mol, 10.7 g | CC=1C(=NC(=NC1Cl)Cl)N | C5H5Cl2N3
reactant | sodium methylate | 0.122 mol, 22 g | C[O-].[Na+]
reactant | methanol | 100 ml | CO | CH4O
product | 4-amino-2,6-dimethoxy-5-methylpyrimidine | yield=60% | NC1=NC(=NC(=C1C)OC)OC | C7H11N3O2
